US05965592
N-[(2'-(1H-Tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-1 -aminomethylcyclopentane-1-carboxylic acid benzylamine
0.507 g of N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-1-aminomethylcyclopentane-1-carboxylic acid is reacted with 0.214 g of benzylamine analogously to Example 48 and the rude product is purified on silica gel 60 (40-63 μm) using CH2Cl2 --MeOH 95:5, Rf =0.49 (system N8). MS (FAB): m /e 551 (M+ +H), 573 (M+ +Na).

reactant | N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-1-aminomethylcyclopentane-1-carboxylic acid | 0.507 g | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)CC1(CCCC1)C(=O)O | C26H31N5O3
reactant | benzylamine | 0.214 g | C(C1=CC=CC=C1)N | C7H9N
product | N-[(2'-(1H-Tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-1 -aminomethylcyclopentane-1-carboxylic acid benzylamine | C(C1=CC=CC=C1)N.N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)CC1(CCCC1)C(=O)O | InChI=1S/C26H31N5O3.C7H9N/c1-2-3-10-23(32)31(18-26(25(33)34)15-6-7-16-26)17-19-11-13-20(14-12-19)21-8-4-5-9-22(21)24-27-29-30-28-24;8-6-7-4-2-1-3-5-7/h4-5,8-9,11-14H,2-3,6-7,10,15-18H2,1H3,(H,33,34)(H,27,28,29,30);1-5H,6,8H2
